US04816181
Commercially available 4-hydroxybenzaldehyde (17.8 g, 0.15 mol) was dissolved in dry pyridine (100 ml) and to the solution was dropwise added under cooling, octyl chloroformate (25 g, 0.13 mol), followed by agitating the mixture at 50°-60° C. for about 2 hours, adding water and toluene thereto, sufficiently agitating the mixture, washing the separated toluene layer with 6N-HCl, then 2N-NaOH aqueous solution and further with water until the washing water became neutral, drying the layer with anhydrous sodium sulfate and distilling off toluene to obtain 4-octyloxycarbonyloxybenzaldehyde (33 g, 0.12 mol), dissolving this compound (33 g, 0.12 mol) in acetic acid (90 ml), dropwise adding to the solution, a solution of chromium oxide (25.2 g, 0.25 mol) dissolved in acetic acid (30 ml) and water (20 ml), at about 20° C., heating the mixture up to 40° C., keeping it for 8 hours, placing water therein, filtering off deposited crystals, washing with water and recrystallizing from ethanol to obtain 4-octyloxycarbonyloxybenzoic acid (31 g), adding thereto thionyl chloride (20 g), refluxing the mixture for about 2 hours, and removing excess thionyl chloride under reduced pressure to obtain 4-octyloxycarbonyloxybenzoic chloride (30 g).

reactant | 4-hydroxybenzaldehyde | 0.15 mol, 17.8 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | octyl chloroformate | 0.13 mol, 25 g | ClC(=O)OCCCCCCCC | C9H17ClO2
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-octyloxycarbonyloxybenzaldehyde | 0.12 mol, 33 g | C(CCCCCCC)OC(=O)OC1=CC=C(C=O)C=C1 | C16H22O4
